US07838675B2
N-(2-[(2,3-Difluorobenzyl)thio]-6-{[(1R,2R)-2-hydroxy-methylpropyl]oxy}pyrimidin-4-yl)-(3R,5S)-3,5-dimethylpiperazine-1-sulfonamide
To a solution of (2R,6S)-2,6-Dimethylpiperazine (1 g) in dioxane (10 ml) was added sulfamide (0.746 g) and the reaction mixture was then heated at reflux in dioxane for 3 d. The reaction mixture was partitioned between EtOAc (150 ml) and H2O (150 ml) and the aqueous re-extracted with EtOAc (2×150 ml). Organics were collected dried and reduced in vacuo to yield (3R,5S)-3,5-dimethylpiperazine-1-sulfonamide as a white solid (1.05 g). A mixture of (3R,5S)-3,5-dimethylpiperazine-1-sulfonamide (0.541 g), tris(dibenzylideneacetone)dipalladium (0) (50 mg), 2-dicyclohexylphosphino-2′,4′,6′-tri-isopropyl-1,1′-biphenyl (XPHOS) (50 mg), cesium carbonate (0.731 g) and (2R,3R)-3-({6-chloro-2-[(2,3-difluorobenzyl)thio]pyrimidin-4-yl}oxy)butan-2-ol ((the product of example 4 step i), 0.541 g) in dioxane (40 mL) was heated at reflux in a microwave at 100° C., 300 W, open vessel with cooling for 20 min. The reaction mixture was then reduced in vacuo and the residue separated between DCM (200 ml) and H2O (200 ml). The organics were separated and the aqueous layer was re-extracted with DCM (2×200 ml). Organics were combined, dried (MgSO4) and reduced in vacuo and the resulting residue was purified by prep HPLC to give the title compound as a white solid. Yield: 80 mg

reactant | (3R,5S)-3,5-dimethylpiperazine-1-sulfonamide | 0.541 g | C[C@@H]1CN(C[C@@H](N1)C)S(=O)(=O)N | C6H15N3O2S
reactant | 2-dicyclohexylphosphino-2′,4′,6′-tri-isopropyl-1,1′-biphenyl | 50 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=C(C=C1C(C)C)C(C)C)C(C)C)C1CCCCC1 | C33H49P
reactant | cesium carbonate | 0.731 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | (2R,3R)-3-({6-chloro-2-[(2,3-difluorobenzyl)thio]pyrimidin-4-yl}oxy)butan-2-ol | ClC1=CC(=NC(=N1)SCC1=C(C(=CC=C1)F)F)O[C@@H]([C@@H](C)O)C | C15H15ClF2N2O2S
solvent | dioxane | 40 mL | O1CCOCC1 | C4H8O2
catalyst | tris(dibenzylideneacetone)dipalladium | 50 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | N-(2-[(2,3-Difluorobenzyl)thio]-6-{[(1R,2R)-2-hydroxy-methylpropyl]oxy}pyrimidin-4-yl)-(3R,5S)-3,5-dimethylpiperazine-1-sulfonamide | FC1=C(CSC2=NC(=CC(=N2)NS(=O)(=O)N2C[C@H](N[C@H](C2)C)C)O[C@@H]([C@@H](C)O)C)C=CC=C1F | C21H29F2N5O4S2
